US07238689B2
0.20 g (1.3 mmoles) of anhydrous potassium carbonate and 0.20 g (1.5 mmoles) of ethyl iodide were added to a solution of 0.30 g (1.0 mmoles) of 5,5-dimethyl-3-(3-hydroxy-1-methyl-5-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline dissolved in 10 ml of N,N-dimethylformamide. The mixture was stirred at 50° C. for 3 hours to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into water, followed by extraction with ethyl acetate. The resulting organic layer was washed with an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein, to obtain 0.30 g (yield: 92.0%) of intended 5,5-dimethyl-3-(3-ethoxy-1-methyl-5-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline.

reactant | potassium carbonate | 1.3 mmoles, 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 1.5 mmoles, 0.20 g | C(C)I | C2H5I
reactant | 5,5-dimethyl-3-(3-hydroxy-1-methyl-5-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline | 1.0 mmoles, 0.30 g | CC1(CC(=NO1)SCC=1C(=NN(C1C(F)(F)F)C)O)C | C11H14F3N3O2S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5,5-dimethyl-3-(3-ethoxy-1-methyl-5-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline | 0.30 g, yield: 92.0% | CC1(CC(=NO1)SCC=1C(=NN(C1C(F)(F)F)C)OCC)C | C13H18F3N3O2S
